### PR TITLE
feat(Geometry/Euclidean/Angle/Unoriented): triangle inequality for angles

### PR DESCRIPTION
**Pull request by LessnessRandomness**
Replace `proof_wanted` with proof.

---

### CODE REVIEW

**Comment by urkud** [comment]
There is a competing PR #22265

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 1]
```diff
@@ -0,0 +1,223 @@
...
+-/
+
+open InnerProductGeometry
+
+variable {V : Type}
+variable [NormedAddCommGroup V]
+variable [InnerProductSpace ℝ V]
+
+/-- **Gets unit length vector from given vector** -/
+noncomputable def unit (x : V): V := ‖x‖⁻¹ • x
```
Comment (urkud) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:21]: We use this construction several times in Mathlib, see https://loogle.lean-lang.org/?q=%E2%80%96%3Fa%E2%80%96%E2%81%BB%C2%B9+%E2%80%A2+%3Fa
Possibly, it deserves a `def` but I think that the name `unit` is too generic.

**Comment by urkud** [comment]
Please coordinate with @Timeroot on how to merge your PRs into 1 PR that gets reviewed&merged.

**Comment by LessnessRandomness** [comment]
Right now **Timeroot** is very busy, we will talk/coordinate when they have free time (week or two later).

**Comment by Timeroot** [comment]
Alright, I think Ilmārs's is sufficiently clean in terms of the imports that I don't have much to add from my proof - I did the add the `EuclideanGeometry.angle_triangle` version of the theorem, and did some (slightly opinionated) cleanup, hope that was welcome. :)

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean (hunk 1 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:23]: As well as a less generic name, this definition should go in a general normed space file. Likewise, any other lemmas that are generic to normed spaces should go in such a file; lemmas involving the inner product but not connected to angles should probably go in a general inner product space file.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 2]
```diff
@@ -0,0 +1,220 @@
...
+
+lemma norm_of_unit {x : V} (H : x ≠ 0) : ‖unit x‖ = 1 := by
+  unfold unit; rw [norm_smul];
+  simp only [norm_inv, norm_norm]
+  have H0 : ‖x‖ ≠ 0 := by simp only [ne_eq, norm_eq_zero]; exact H
+  field_simp
+
+lemma inner_product_of_units_as_cos {x y : V} (Hx : ‖x‖ = 1) (Hy : ‖y‖ = 1) :
+    ⟪x, y⟫ = Real.cos (angle x y) := by
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:32]: The name by the naming conventions should be something like `inner_eq_cos_angle_of_norm_eq_one`. Similarly, please review other names against the naming conventions.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 3]
```diff
@@ -0,0 +1,220 @@
...
+  rw [cos_angle, Hx, Hy]; simp
+
+lemma inner_sq_of_unit {x : V} (Hx : ‖x‖ = 1) : ⟪x, x⟫ = 1 := by
+  rw [inner_eq_one_iff_of_norm_one Hx Hx]
+
+lemma angle_triangle_aux1 {x y : V} (Hx : ‖x‖ = 1) (Hy : ‖y‖ = 1) :
+    let u := unit (x - ⟪x, y⟫ • y)
+    ⟪x, u⟫ ^ 2 + ⟪x, y⟫ ^ 2 = 1 := by
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:40]: Using a `let` in the type of a lemma is somewhat unusual. Certainly in a case like this where `u` is only used once in the statement, it should just be expanded inline in the statement rather than using `let` at all.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 4]
```diff
@@ -0,0 +1,220 @@
...
+      tauto
+    field_simp [← sq, ← real_inner_self_eq_norm_sq,
+      inner_sub_left, inner_sub_right, inner_sub_right,
+      real_inner_smul_left, real_inner_smul_right,
+      real_inner_comm x y, inner_sq_of_unit Hx, inner_sq_of_unit Hy]
+
+@[simp]
+lemma proj_ortogonal_of_unit (x : V) {y : V} (Hy : ‖y‖ = 1):
+    let u := unit (x - ⟪x, y⟫ • y)
+    ⟪y, u⟫ = 0 := by
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:145]: There's a typo `ortogonal` in this name, but the name also needs rewriting following the naming conventions, probably yielding something more like `inner_sub_inner_smul_right_eq_zero_of_norm_eq_one` (and this would go in a general inner product space file).

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 5]
```diff
@@ -0,0 +1,220 @@
...
+  dsimp [unit]
+  rw [real_inner_smul_right]
+  simp only [mul_eq_zero, inv_eq_zero, norm_eq_zero]
+  rw [inner_sub_right, real_inner_smul_right]
+  rw [inner_sq_of_unit Hy, real_inner_comm x y]
+  simp
+
+lemma ge_of_le_cos {x y : ℝ} (Hx : x ∈ Set.Icc 0 Real.pi) (Hy : y ∈ Set.Icc 0 Real.pi)
+    (H : Real.cos x ≤ Real.cos y) : y ≤ x := by
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:154]: A general trigonometric lemma belongs in a general trigonometric file.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 6]
```diff
@@ -0,0 +1,220 @@
...
+  rw [← Real.arccos_cos Hy.1 Hy.2, ← Real.arccos_cos Hx.1 Hx.2]
+  obtain H0 | H0 := eq_or_lt_of_le H
+  · rw [← Real.arccos_cos Hy.1 Hy.2, ← Real.arccos_cos Hx.1 Hx.2, H0]
+  · apply (Real.strictAntiOn_arccos (Real.cos_mem_Icc x) (Real.cos_mem_Icc y)) at H0
+    linarith
+
+lemma angle_eq_angle_of_units {x y : V} (Hx : x ≠ 0) (Hy : y ≠ 0):
+    angle x y = angle (unit x) (unit y) := by
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:162]: This shouldn't need `Hx` or `Hy`; it should be true also in the degenerate cases of zero vectors.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean (hunk 5 above)
Comment (Timeroot) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:154]: Isn't this actually just Real.strictAntiOn_cos, I think?

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:154]: If direct use of an existing lemma like that can just be inlined where this one is used, even better.

**Comment by LessnessRandomness** [comment]
Ok, so... I talked to @Timeroot and he agreed to take over this PR. I'm just too busy. :(

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 7]
```diff
@@ -0,0 +1,265 @@
...
+
+open InnerProductGeometry
+
+open scoped RealInnerProductSpace
+
+variable {V : Type*}
+variable [NormedAddCommGroup V]
+variable [InnerProductSpace ℝ V]
+
+lemma inner_product_of_units_as_cos {x y : V} (hx : ‖x‖ = 1) (hy : ‖y‖ = 1) :
```
Comment (Timeroot) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:22]: These three lemmas go in other files. `inner_eq_sq_norm_iff` and `inner_eq_neg_sq_norm_iff` are generic facts about vector spaces (not just over reals) and so belong somewhere higher. `inner_product_of_units_as_cos` belongs in Angle/Oriented/Basic.lean, I think, although I'm not sure if it needs to exist as a lemma.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 8]
```diff
@@ -0,0 +1,266 @@
...
+  constructor
+  · intro h
+    rw [← sub_eq_zero, ← inner_self_eq_zero (𝕜 := ℝ)]
+    simp only [inner_sub_right, real_inner_self_eq_norm_sq, real_inner_comm, inner_neg_right, *]
+    abel
+  · rintro rfl
+    rw [inner_neg_left, real_inner_self_eq_norm_sq, hy]
+
+/-- The unit length vector from a given vector. Note that `unit 0 = 0`. -/
+noncomputable def unit (x : V) : V := ‖x‖⁻¹ • x
```
Comment (Timeroot) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:46]: I tried to pull out the `unit` stuff so it can stand on its own. I don't know where this belongs in Mathlib, or how high a priority it would be trying to get it used in other places, as Yury described.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 9]
```diff
@@ -0,0 +1,266 @@
...
+lemma neg_one_le_inner_unit_unit (x y : V) : -1 ≤ ⟪unit x, unit y⟫ := by
+  by_cases hx : x = 0
+  · simp [hx, unit]
+  by_cases hy : y = 0
+  · simp [hy, unit]
+  convert Real.neg_one_le_cos <| angle (unit x) (unit y)
+  simp [inner_product_of_units_as_cos, hx, hy]
+
+/-- Gets the orthogonal direction of one vector relative to another. -/
+noncomputable def orthoDir (x y : V) : V := unit (x - ⟪x, unit y⟫ • unit y)
```
Comment (Timeroot) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:88]: Ditto `orthoDir`, don't know if this should just live only in this file or not. It's a useful concept, perhaps slightly more broadly.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 10]
```diff
@@ -0,0 +1,266 @@
...
+  rw [real_inner_smul_right, real_inner_smul_left]
+  rw [real_inner_smul_right, real_inner_smul_left]
+  rw [real_inner_comm x y]
+  rw [real_inner_self_eq_norm_sq, hx, real_inner_self_eq_norm_sq, hy]
+  ring
+
+--Angle-specific stuff
+
+@[simp]
+lemma angle_unit_left (x y : V) :
```
Comment (Timeroot) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:178]: If we pull `unit` out, then these two simp lemmas could definitely go in `Angle/Unoriented/Basic.lean`.

**Comment by Timeroot** [comment]
I added my cleanup work, I have some things I'm not sure about regarding whether putting `unit` (or this other function, `orthoDir`) elsewhere in mathlib.

@jsm28 , @LessnessRandomness said he might have some time again, can you advise on the best ways to continue?

**Comment by LessnessRandomness** [comment]
I will have time in July (probably all the month) or about three weeks from now.

**Comment by LessnessRandomness** [comment]
Big thank you to @Timeroot!

It has happened that I'm free already.
@jsm28, what should I do next?

**Comment by LessnessRandomness** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/26129
